multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
C1 A 0 3.49e-06
R2 A B 2003.978454
R3 A C 994.96302
R4 B C 1526.817376
R5 C 0 4062.104376
.op
.control
run
print v(A) v(B) v(C)
print @r2[i] @r3[i] @r4[i] @r5[i]
print @i1[i]
.endc
.end
